US05254565
A mixture of 2,6-di-tert-butyl-4-methylphenol (2.34 g), N-bromosuccinimide (1.88 g) and carbon tetrachloride (25 ml) was refluxed for 2 hrs. The mixture was filtered to remove the insoluble precipitate to give a solution of 4-bromomethyl-2,6-di-tert-butylphenol. To the solution was added 3-amino-4-(2-chlorophenyl)-6,8-dimethylquinoline (2.0 g), and the whole was stirred for 5 hrs. at room temperature. The mixture was diluted with chloroform, washed with water, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was purified by a column chromatography on silica gel and recrystallized from a mixture of acetone and isopropyl ether to give 4-(2-chlorophenyl)-3-(2,6-di-tert-butyl-4-hydroxyphenyl)amino-6,8-dimethylquinoline as colorless prisms (1.59 g, 44.9%). m.p. 183°-185° C.

reactant | 2,6-di-tert-butyl-4-methylphenol | 2.34 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | N-bromosuccinimide | 1.88 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromomethyl-2,6-di-tert-butylphenol | BrCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C15H23BrO
